US08207151B2
(10S,13S,16R,17R)-17-hydroxy-17-(2-hydroxyacetyl)-10,13,16-trimethyl-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-3-one:
Prepared according to Example 8, Step 2 substituting 2-((10S,13S,16R,17R)-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate for 2-oxo-2-((10S,13S,16R,17S)-10,13,16-trimethyl-3-oxo-2,3,6,7,8,10,12,13,14,15,16,17-dodecahydro-1H-cyclopenta[a]phenanthren-17-yl)ethyl acetate.

reactant | 2-((10S,13S,16R,17R)-17-hydroxy-10,13,16-trimethyl-3-oxo-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-17-yl)-2-oxoethyl acetate | C(C)(=O)OCC(=O)[C@]1([C@@H](CC2C3CCC4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)O | C24H30O5
reactant | 2-oxo-2-((10S,13S,16R,17S)-10,13,16-trimethyl-3-oxo-2,3,6,7,8,10,12,13,14,15,16,17-dodecahydro-1H-cyclopenta[a]phenanthren-17-yl)ethyl acetate | C(C)(=O)OCC([C@H]1[C@@H](CC2C3CCC4=CC(CC[C@@]4(C3=CC[C@]12C)C)=O)C)=O | C24H32O4
product | (10S,13S,16R,17R)-17-hydroxy-17-(2-hydroxyacetyl)-10,13,16-trimethyl-6,7,8,10,12,13,14,15,16,17-decahydro-3H-cyclopenta[a]phenanthren-3-one | O[C@@]1([C@@H](CC2C3CCC4=CC(C=C[C@@]4(C3=CC[C@]12C)C)=O)C)C(CO)=O | C22H28O4
